US09427475B2
Step B: Benzyl (1[α-D-mannopyranosyl],4[α-D-mannopyranosyl]-dihydroxybutan-2-yl)carbamate
To a solution of Benzyl (1[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl],4[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl]-dihydroxybutan-2-yl)carbamate (9.72 g, 6.96 mmol) in Methanol (30 mL) was added 0.5M sodium methoxide (1.5 mL, 0.750 mmol) in methanol. After stirring at room temperature for 48 hour, amberlite IR 120 (H) ion exchange resin (pre-washed with methanol 3×30 ml) was added to reaction mixture, and allowed stirring for additional 15 minutes. The ion exchange resin was filtered off and washed with methanol (2×5 mL). The filtrate was concentrated down and the residue was purified on 86 g C18 column reverse phase, eluting with 5% CH3CN in water (3 cv) then 5% to 50% CH3CN in water (20 cv) to give the title compound as a white solid. UPLC-MS: calculated for C24H37NO14 563.22 observed m/e: 564.24 (M+H)+(Rt: 2.31/5.00 min).

reactant | Benzyl (1[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl],4[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl]-dihydroxybutan-2-yl)carbamate | 6.96 mmol, 9.72 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)CC(CC([C@@H]1[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)(O)O)NC(OCC1=CC=CC=C1)=O | C80H69NO22
reactant | sodium methoxide | 0.750 mmol, 0.5M, 1.5 mL | C[O-].[Na+]
solvent | Methanol | 30 mL | CO | CH4O
product | Benzyl (1[α-D-mannopyranosyl],4[α-D-mannopyranosyl]-dihydroxybutan-2-yl)carbamate | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC(CC([C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)(O)O)NC(OCC1=CC=CC=C1)=O | C24H37NO14
